US05882628
e. N,N'-bis(hydroxyacetyl)-3,5-diamino-2,4,6-triiodobenzylalcohol
3,5-Bis(acetoxyacetylamino)-2,4,6-triiodobenzylacetate (152 mg, 0.2 mmol) was dissolved in a mixture of methanol (6 ml) and 1M aqueous NaOH (2 ml) and the solution was stirred for 2 h at room temperature. After neutralization with 1M HCl, the solvents were removed by evaporation and the product was purified by preparative HPLC. Yield: 105 mg (83%).

reactant | 3,5-Bis(acetoxyacetylamino)-2,4,6-triiodobenzylacetate | 0.2 mmol, 152 mg | C(C)(=O)OCC(=O)NC=1C(=C(CCC(=O)[O-])C(=C(C1I)NC(COC(C)=O)=O)I)I
reactant | methanol | 6 ml | CO | CH4O
solvent | NaOH | 1M, 2 ml | [OH-].[Na+]
product | N,N'-bis(hydroxyacetyl)-3,5-diamino-2,4,6-triiodobenzylalcohol | OCC(=O)NC=1C(=C(CO)C(=C(C1I)NC(CO)=O)I)I | C11H11I3N2O5
